US03959322
Add dl-17α-ethyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol (3 g) in tetrahydrofuran (50 ml) to lithium (0.8 g) in aniline (8 ml) and liquid ammonia (200 ml). Stir for two hours, decompose by adding ammonium chloride and water, and extract with ether. Wash, dry and evaporate the organic extract, and crystallize from ethyl acetate-hexane to obtain dl-17α-ethyl-3-methoxyestra-1,3,5(10)-trien-17β-ol (2 g), m.p. 133°--135°; ultraviolet absorption maximum at 279 mμ (ε2,120).

reactant | 17α-ethyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol | 3 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)C=1CCC=3C=C(C=CC3C1CC2)OC)O | C21H28O2
reactant | lithium | 0.8 g | [Li] | Li
reactant | ammonia | 200 ml | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | aniline | 8 ml | NC1=CC=CC=C1 | C6H7N
solvent | water | O | H2O
product | 17α-ethyl-3-methoxyestra-1,3,5(10)-trien-17β-ol | 2 g | CCC1(CCC2C1(CCC3C2CCC4=C3C=CC(=C4)OC)C)O | C21H30O2
